US05440054
2-Benzofuraneacetic acid:
7. The crude cyanomethylbenzofuran, compound 6, was stirred for 6 hours in boiling water (1,000 ml) containing sodium hydroxide (80 g), cooled to 25° C., then washed with methylene chloride (250 ml, then 2×100 ml). The pH was brought to 2.0 with 6N HCl. The precipitate was extracted with methylene chloride (200 ml, then 100 ml, then 50 ml), dried over magnesium sulfate and the solvent evaporated. The yield was approximately 72 g.

reactant | cyanomethylbenzofuran | C(#N)CC=1OC2=C(C1)C=CC=C2 | C10H7NO
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
reactant | water | 1,000 ml | O | H2O
product | 2-Benzofuraneacetic acid | C=1(OC=C2C1C=CC=C2)CC(=O)O | C10H8O3
